US05079319
The process of Example 6 is repeated, but using heptafluoropropylmethyl methacrylate (F7MA) as fluorinated comonomer and using an amount of 2-isocyanatoethyl methacrylate (IEM) to give a prepolymer with a composition in mol % of: DMA/F7MA/HEMA/HEMA+IEM=80/12.5/5.65/1.85.

reactant | heptafluoropropylmethyl methacrylate | C(C(=C)C)(=O)OCC(C(C(F)(F)F)(F)F)(F)F | C8H7F7O2
reactant | 2-isocyanatoethyl methacrylate | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | HEMA HEMA IEM | CC(=C)C(=O)OCCO.CC(=C)C(=O)OCCO.C(C(=C)C)(=O)OCCN=C=O | InChI=1S/C7H9NO3.2C6H10O3/c1-6(2)7(10)11-4-3-8-5-9;2*1-5(2)6(8)9-4-3-7/h1,3-4H2,2H3;2*7H,1,3-4H2,2H3
